US07381841B2
a) 1-Bromo-4-pentafluorosulfanylbenzene
5.0 g of 4-pentafluorosulfanylaniline were dissolved in 20 ml of acetic acid and, at 0° C., a saturated aqueous HBr solution was added. Then at 0° C., a solution of 1.9 of NaNO2 in 5 ml of water was slowly added dropwise over the course of 5 minutes. The reaction mixture was stirred at 0° C. for 10 minutes and then added in portions to a suspension of 6.5 g of CuBr in 20 ml of a half-saturated aqueous HBr solution at 0° C. Nitrogen is liberated during this. The mixture was stirred at 0° C. for 30 minutes and then at RT for 1 h. It was subsequently extracted 3 times with 100 ml of HEP each time, and then the HEP was washed twice with 50 ml of a saturated aqueous Na2CO3 solution each time. The residue after drying over MgSO4 and removal of the solvent in vacuo was chromatographed on silica gel with HEP. 1.8 g of a colorless oil were obtained.

reactant | 4-pentafluorosulfanylaniline | 5.0 g | FS(C1=CC=C(N)C=C1)(F)(F)(F)F | C6H6F5NS
reactant | NaNO2 | N(=O)[O-].[Na+]
reactant | HBr | 20 ml | Br | BrH
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | water | 5 ml | O | H2O
product | 1-Bromo-4-pentafluorosulfanylbenzene | 1.8 g | BrC1=CC=C(C=C1)S(F)(F)(F)(F)F | C6H4BrF5S
